US06071903
1-Acetyl-4-(4-Hydroxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylic acid, Hydroxyamide
To a crude mixture of 1-acetyl-4-(4-hydroxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylic acid (0.55 g) and N-hydroxybenzotriazole (0.414 g) in 5 ml of N,N-dimethylformamide was added 0.684 g of 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride. The mixture was stirred at room temperature for 1 hr and then 750 μL of hydroxylamine in water (50%) was added and the mixture stirred at room temperature overnight. The mixture was diluted with ethyl acetate and then washed with H2O, 2N citric acid, brine and dried (Na2SO4). The solvent was removed under vacuum to give a solid. Chromatography on silica gel with 10% methanol in ethyl acetate as solvent gave a solid which was dried at 78° C under vacuum overnight to give an off-white foam; Mass spectrum (ES) 406.1 (M+H); Anal. Calcd. For C18H19N3O6S; C, 53.3; H, 4.7; N, 10.4. Found: C, 52.6; H, 5.2; N, 10.4.

reactant | 1-acetyl-4-(4-hydroxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylic acid | 0.55 g | C(C)(=O)N1CC(N(CC2=C1C=CC=C2)S(=O)(=O)C2=CC=C(C=C2)O)C(=O)O | C18H18N2O6S
reactant | N-hydroxybenzotriazole | 0.414 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.684 g | Cl.CN(CCCN=C=NCC)C
reactant | hydroxylamine | 750 μL | NO | H3NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
product | 1-Acetyl-4-(4-Hydroxybenzenesulfonyl)-2,3,4,5-tetrahydro-1H-[1,4]benzodiazepine-3-carboxylic acid, Hydroxyamide | ONC(=O)C1CN(C2=C(CN1S(=O)(=O)C1=CC=C(C=C1)O)C=CC=C2)C(C)=O | C18H19N3O6S
